US05661160
4-Phenyl-4-cyano-1-benzyl-piperidine (535 g, 1940 mmol) was combined with aqueous sodium hydroxide (85 mL, 50% by weight) and ethanol (5 L) and the mixture was heated to 50° C. The heating was removed, and a solution of hydrogen peroxide (856 mL, 30% by weight in water) was added at such a rate that the temperature of the reaction mixture does not rise above 50° C. The reaction mixture was then stirred at 50° C. for 20 hours. The reaction mixture was diluted with water (3 L) and the ethanol was removed in vacuo at 35° C. Cooling the reaction mixture to ambient temperature gave a solid which was collected by filtration, rinsed with water, and air dried to give 4-phenyl-1-benzyl-piperidine-4-carboxylic acid amide N-oxide.

reactant | 4-Phenyl-4-cyano-1-benzyl-piperidine | 1940 mmol, 535 g | C1(=CC=CC=C1)C1(CCN(CC1)CC1=CC=CC=C1)C#N | C19H20N2
reactant | sodium hydroxide | 85 mL | [OH-].[Na+]
reactant | ethanol | 5 L | C(C)O | C2H6O
product | 4-phenyl-1-benzyl-piperidine-4-carboxylic acid amide N-oxide | C1(=CC=CC=C1)C1(CCN(CC1)CC1=CC=CC=C1)C(=O)[NH2]=O | C19H22N2O2
